US04716246
condensing vanillin and hydantoin by heating together in admixture with diethanolamine to produce 5-vanillylidenehydantoin, and

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | hydantoin | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 5-vanillylidenehydantoin | C(C1=CC(OC)=C(O)C=C1)=C1C(NC(N1)=O)=O | C11H10N2O4
